US06384234B1
Preparation of N-(3-Amino-4-fluorophenyl)-1-chloromethanesulfonamide
A mixture of 12.5 g of iron powder (223 mmol) and 16 mL of an aqueous solution of acetic acid (8%) was heated to 80° C., and a solution of 6 g of 1-chloro-N-(4-fluoro-3-nitrophenyl)methanesulfonamide (22.3 mmol) in 20 mL of glacial acetic acid and 22 mL ethyl acetate was added dropwise to the mixture. After heating for 1.5 h the reaction mixture was filtered through a pad of Celite® and washed with 200 mL of ethyl acetate and water (twice with 25 mL). The organic phase was separated, dried (MgSO4), filtered and concentrated under reduced pressure to yield 5 g (94%) of the title compound as a solid melting at 128-129° C.

reactant | 1-chloro-N-(4-fluoro-3-nitrophenyl)methanesulfonamide | 22.3 mmol, 6 g | ClCS(=O)(=O)NC1=CC(=C(C=C1)F)[N+](=O)[O-] | C7H6ClFN2O4S
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 22 mL | C(C)(=O)OCC | C4H8O2
catalyst | iron | 223 mmol, 12.5 g | [Fe] | Fe
product | N-(3-Amino-4-fluorophenyl)-1-chloromethanesulfonamide | 5 g, 94% | NC=1C=C(C=CC1F)NS(=O)(=O)CCl | C7H8ClFN2O2S
